US06562828B1
Ethyl Phenylacetoimidate Hydrochloride
Hydrogen chloride was blown into a solution of benzyl cyanide (5.8 ml) in diethyl ether (10 ml) with ice-cooling, and the mixture was stood at room temperature for 12 hours. After completion of the reaction, the solvent was evaporated. The obtained solid was washed with diethyl ether, collected by filtration and dried under reduced pressure to give the title compound (9.43 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | benzyl cyanide | 5.8 ml | C(C1=CC=CC=C1)C#N | C8H7N
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | Ethyl Phenylacetoimidate Hydrochloride | 9.43 g | Cl.C1(=CC=CC=C1)CC(OCC)=N | InChI=1S/C10H13NO.ClH/c1-2-12-10(11)8-9-6-4-3-5-7-9;/h3-7,11H,2,8H2,1H3;1H
